US08058245B2
1-[1-(4-Methylbenzyl)-1H-indol-6-yl]-1-deoxy-β-D-glucopyranose
A solution of 1-[1-(4-methylbenzyl)-1H-indol-6-yl]-1-deoxy-2,3,4,6-tetra-O-benzyl-β-D-glucopyranose and 10% palladium-carbon powder (0.12 g) in tetrahydrofuran (3 mL) and methanol (3 mL) was stirred at room temperature for 1 hour under a hydrogen atmosphere. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=10/1) to give the title compound (0.035 g).

reactant | 1-[1-(4-methylbenzyl)-1H-indol-6-yl]-1-deoxy-2,3,4,6-tetra-O-benzyl-β-D-glucopyranose | CC1=CC=C(CN2C=CC3=CC=C(C=C23)[C@H]2[C@H](OCC3=CC=CC=C3)[C@@H](OCC3=CC=CC=C3)[C@H](OCC3=CC=CC=C3)[C@H](O2)COCC2=CC=CC=C2)C=C1 | C50H49NO5
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | methanol | 3 mL | CO | CH4O
catalyst | palladium-carbon | 0.12 g | [C].[Pd]
product | 1-[1-(4-Methylbenzyl)-1H-indol-6-yl]-1-deoxy-β-D-glucopyranose | 0.035 g | CC1=CC=C(CN2C=CC3=CC=C(C=C23)[C@H]2[C@H](O)[C@@H](O)[C@H](O)[C@H](O2)CO)C=C1 | C22H25NO5
